US09023858B2
D) 6-[bis(2,4-dimethoxybenzyl)amino]-2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrimidin-4(3H)-one
To a solution of 6-[bis(2,4-dimethoxybenzyl)amino]-2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3-dihydropyrimidin-4(1H)-one (0.65 g) in acetonitrile (7 mL) were added 1M aqueous sodium hydrogen carbonate solution (1.05 mL) and iodoethane (0.425 mL), and the mixture was stirred at 70° C. for 2 hr. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.68 g).

reactant | 6-[bis(2,4-dimethoxybenzyl)amino]-2-thioxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2,3-dihydropyrimidin-4(1H)-one | 0.65 g | COC1=C(CN(C2=CC(N(C(N2)=S)C2=CC=C(C=C2)OCC(F)(F)F)=O)CC2=C(C=C(C=C2)OC)OC)C=CC(=C1)OC | C30H30F3N3O6S
reactant | sodium hydrogen carbonate | 1M, 1.05 mL | C(O)([O-])=O.[Na+]
reactant | iodoethane | 0.425 mL | ICC | C2H5I
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | 6-[bis(2,4-dimethoxybenzyl)amino]-2-(ethylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrimidin-4(3H)-one | 0.68 g | COC1=C(CN(C2=CC(N(C(=N2)SCC)C2=CC=C(C=C2)OCC(F)(F)F)=O)CC2=C(C=C(C=C2)OC)OC)C=CC(=C1)OC | C32H34F3N3O6S
